US08003663B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-4-({8-[(2-hydroxyethyl)(methyl)amino]octanoyl}amino)benzamide mono-(+)-camphorsulfonate
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-4-({8-[(2-hydroxyethyl)(methyl)amino]octanoyl}amino)benzamide [the “free base”, 100 mg, about 0.161 mmol, as a substantially amorphous form thereof, as prepared in Example 1B (alternative preparation no. 2)] and (+)-camphorsulfonic acid (37.4 mg±1 mg, 1 equivalent) were suspended in methyl isobutyl ketone (MIBK, 5 ml). The resulting solution/suspension was left to temperature cycle between 0° C. and 40° C. overnight. The next day, a suspension had formed, and from this the resulting solid was isolated by filtration, washed with methyl isobutyl ketone (MIBK, 1 ml) and dried at 40° C. under vacuum overnight. 111.4 mg of dried solid was obtained. NMR data appears to support a stoichiometry consistent with the solid product being substantially a mono-(+)-camphorsulfonate.

reactant | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-4-({8-[(2-hydroxyethyl)(methyl)amino]octanoyl}amino)benzamide | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(C2=CC=C(C=C2)NC(CCCCCCCN(C)CCO)=O)=O)CC | C34H51N7O4
reactant | (+)-camphorsulfonic acid | 37.4 mg±1 mg, 1 equivalent | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | methyl isobutyl ketone | 5 ml | C(C(C)C)C(=O)C | C6H12O
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-4-({8-[(2-hydroxyethyl)(methyl)amino]octanoyl}amino)benzamide mono-(+)-camphorsulfonate | 111.4 mg | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O.C(C)N2N=CC=1C2=NC(=C(C1NC1CCOCC1)CNC(C1=CC=C(C=C1)NC(CCCCCCCN(C)CCO)=O)=O)CC | InChI=1S/C34H51N7O4.C10H16O4S/c1-4-30-28(32(38-27-16-21-45-22-17-27)29-24-36-41(5-2)33(29)39-30)23-35-34(44)25-12-14-26(15-13-25)37-31(43)11-9-7-6-8-10-18-40(3)19-20-42;1-9(2)7-3-4-10(9,8(11)5-7)6-15(12,13)14/h12-15,24,27,42H,4-11,16-23H2,1-3H3,(H,35,44)(H,37,43)(H,38,39);7H,3-6H2,1-2H3,(H,12,13,14)
